US07632791B2
Under N2 atmosphere with rigorous exclusion of moisture, a solution of dimethyl sulfoxide (340 mg, 4.40 mmol) in CH2Cl2 (1 mL) was injected via syringe at −70° C. within 5 min. into a stirred oxalyl chloride solution in CH2Cl2 (2 M, 1.10 ml, 2.20 mmol) diluted with CH2Cl2 (5 mL). After stirring at this temp. for 5 min., (1R*,2S*,4R*)-1,4,7,7,9,9-hexamethylspiro[4.5]decan-1,2-diol (510 mg, 2.00 mmol) dissolved in CH2Cl2 (1 mL) was injected during 5 min dropwise via syringe. Stirring was continued at −70° C. for 30 min., prior to injection of Et3N (1.01 g, 10.0 mmol). The cooling bath was removed, and the reaction mixture allowed to warm to room temp., prior to pouring into water (50 mL). The organic layer was separated, the aqueous one extracted with CH2Cl2 (2×50 mL). The combined organic extracts were washed with water (50 mL), dried (Na2SO4), and concentrated on the rotary evaporator. Purification of the resulting residue by two silica-gel FC (pentane/Et2O, 19:1, Rf=0.17) furnished (1R*,4R*)-1-hydroxy-1,4,7,7,9,9-hexamethylspiro[4.5]decan-2-one (330 mg, 65%).

reactant | dimethyl sulfoxide | 4.40 mmol, 340 mg | CS(=O)C | C2H6OS
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (1R*,2S*,4R*)-1,4,7,7,9,9-hexamethylspiro[4.5]decan-1,2-diol | 2.00 mmol, 510 mg | C[C@@]1([C@H](C[C@H](C12CC(CC(C2)(C)C)(C)C)C)O)O | C16H30O2
reactant | Et3N | 10.0 mmol, 1.01 g | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.20 mmol, 2 M, 1.10 ml | C(Cl)Cl | CH2Cl2
product | (1R*,4R*)-1-hydroxy-1,4,7,7,9,9-hexamethylspiro[4.5]decan-2-one | 330 mg, 65% | O[C@]1(C(C[C@H](C12CC(CC(C2)(C)C)(C)C)C)=O)C | C16H28O2
